US07662841B2
Thionyl chloride (0.1 ml, 1.37 mmol) was added dropwise to a solution of 2-bromoimidazo[5,1-b]thiazole-7-carboxylic acid (97 mg, 0.39 mmol) in toluene (10 ml), and the mixture was heated under reflux for 1.5 hr. The excessive amount of thionyl chloride was removed at the atmospheric pressure, and the solvent was then removed by distillation under the reduced pressure to give 2-bromoimidazo[5,1-b]thiazole-7-carboxylic acid chloride (104 mg, quantitative) as a light brown solid.

reactant | Thionyl chloride | 1.37 mmol, 0.1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-bromoimidazo[5,1-b]thiazole-7-carboxylic acid | 0.39 mmol, 97 mg | BrC1=CN2C(S1)=C(N=C2)C(=O)O | C6H3BrN2O2S
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-bromoimidazo[5,1-b]thiazole-7-carboxylic acid chloride | 104 mg | BrC1=CN2C(S1)=C(N=C2)C(=O)Cl | C6H2BrClN2OS
